data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4876,5560,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([C:17](=[O:18])[NH:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:16]([C:17](=[O:18])[NH:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:14]([CH3:15])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,38.1902114322802,-9.926965079663995
4164,4767,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,14.513023422737222,-32.911905504108574
4421,5053,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14](=[O:15])[NH:16][CH3:17])[N+:18]([CH3:19])=[CH:20][C:21]([CH3:22])=[O:23]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14](=[O:15])[NH:16][CH3:17])[N:18]([CH3:19])[CH:20]2[C:21]([CH3:22])=[O:23],water,298.15,7.505450488110638,-28.64180098453713
2528,2808,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][C:25]([C:26]#[N:27])=[NH+:28][N-:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:25]([CH3:24])([C:26]#[N:27])[NH:28][N:29]2[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,27.47841227057032,-24.784593424188603
1172,1274,[CH3:13][CH-:14][O+:15]=[C:16]([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:14]([CH3:13])[O:15][C:16]2([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,14.49444140720227,-46.14373242916344
4315,4935,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N-:15][O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:15]([C:13]([NH:12][CH3:11])=[O:14])[O:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,4.484614190562538,-34.43551470835525
1149,1248,[CH3:12][NH:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[n-:20][n+:21]1[CH3:22].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:16]1([C:14]([NH:13][CH3:12])=[O:15])[O:17][C:18](=[O:19])[N:20]2[N:21]1[CH3:22],water,298.15,29.75830575876597,1.3120866242568168
2896,3218,[CH2:1]=[CH2:2].[CH3:3][N:4]=[NH+:5][NH-:6]>>[CH2:1]1[CH2:2][NH:6][NH:5][N:4]1[CH3:3],water,298.15,28.096057278408512,-11.797484327956257
4338,4959,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]([C:10]([CH3:11])=[O:12])=[N+:13]([CH3:14])[C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:15]([C:16]#[N:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:13]([CH3:14])[C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:10]([CH3:11])=[O:12],water,298.15,29.439838466083746,-22.92491281468701
3258,3681,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[N:7]#[C:8][CH:9]=[O+:10][N-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[O:10][CH:9]1[C:8]#[N:7],water,298.15,12.22073428057828,-46.49945835945531
1180,1282,[CH3:16][C:17](=[O:18])[C-:19]([O+:20]=[CH:21][C:22]#[N:23])[C:24]([CH3:25])=[O:26].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[CH:21]([C:22]#[N:23])[O:20][C:19]2([C:17]([CH3:16])=[O:18])[C:24]([CH3:25])=[O:26],water,298.15,13.036278398880418,-34.94711097628707
4012,4597,[CH3:10][O:11][C:12](=[O:13])[CH-:14][NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:14]([C:12]([O:11][CH3:10])=[O:13])[NH:15][C:16]1([C:17]#[N:18])[C:19]([CH3:20])=[O:21],water,298.15,12.933946482235417,-11.93432910528758
